US06992087B2
Preparation of cis-(+/−)-4-{[3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-yl]amino}tetrahydrofuran-3-ol
Following the procedure for the preparation of (1S,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol. but substituting cis-(+/−)-4-{[3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-yl]amino}tetrahydrofuran-3-yl 4-nitrobenzoate and making non-critical variations provided the title compound as a colorless semi-solid. OAMS supporting ions at: ESI+ 358.2; MS (EI) m/z 357 (M+); HRMS (FAB) calcd for C20H27N3O3+H1 358.2130, found 358.2125.

reactant | (1S,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1[C@H](CC2=CC=CC=C12)O)CC | C23H23Cl2N3O
reactant | cis-(+/−)-4-{[3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-yl]amino}tetrahydrofuran-3-yl 4-nitrobenzoate | [N+](=O)([O-])C1=CC=C(C(=O)O[C@@H]2COC[C@@H]2NC2=NC(=C(N=C2CC)C2=C(C=C(C=C2)OC)C)CC)C=C1 | C27H30N4O6
product | cis-(+/−)-4-{[3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-yl]amino}tetrahydrofuran-3-ol | C(C)C=1C(=NC(=C(N1)C1=C(C=C(C=C1)OC)C)CC)N[C@@H]1[C@@H](COC1)O | C20H27N3O3
